US08974995B2
Freshly distilled tetrahydrothiapyran-3-ol (8.97 g, 75.3 mmol) and triethylamine (10.6 mL, 75.5 mmol) were dissolved in anhydrous tetrahydrofuran (THF) (40 mL) and cooled to 0° C. Methacryloyl chloride (8.1 mL, 83.2 mmol) was then added slowly, dropwise. The reaction then was warmed slowly to room temperature. After stirring overnight, 30 mL DIW were added and the mixture was made basic with 5 M NaOH. The THF then was removed by rotary evaporation and the product was extracted with diethyl ether (3×40 mL). The ether extracts were combined and washed with 0.1 M NaOH, followed by DIW before being dried over sodium sulfate and filtered. The product was then concentrated by rotary evaporation and dried in vacuo to afford tetrahydro-2H-thiopyran-3-yl methacrylate as a light orange liquid (7.63 g, 54%). 1H NMR (600 MHz, CDCl3, ppm) δ 6.08 (s, 1H), 5.54 (s, 1H), 4.94 (m, 1H), 2.78 (m, 1H), 2.62 (m, 1H), 2.49 (m, 1H), 2.47 (m, 1H), 2.14 (m, 1H), 1.99 (m, 1H), 1.91 (s, 3H), 1.85 (m, 1H), 1.49 (m, 1H). 13C NMR (150 MHz, CDCl3, ppm) δ 166.61, 136.69, 125.62, 71.21, 32.26, 31.82, 28.10, 27.43, 18.43.

reactant | tetrahydrothiapyran-3-ol | 75.3 mmol, 8.97 g | S1CC(CCC1)O | C5H10OS
reactant | triethylamine | 75.5 mmol, 10.6 mL | C(C)N(CC)CC | C6H15N
reactant | Methacryloyl chloride | 83.2 mmol, 8.1 mL | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | NaOH | 5 M | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | tetrahydro-2H-thiopyran-3-yl methacrylate | 7.63 g, 54% | C(C(=C)C)(=O)OC1CSCCC1 | C9H14O2S
